US06858630B2
Preparation of (S)-2-({1-[2-(4′-tert-butylbiphenyl-3-yl)-9-hydroxy-3H-naphtho[1,2-d]imidazol-7-yl]-methanoyl}-amino)-3-phenylpropionic acid (Compound 125)
To the 2-(4′-tert-butylbiphenyl-3-yl)-9-hydroxy-3H-naphtho[1,2-d]imidazole-7-carboxylic acid (0.047 g, 0.1 mmol) in dimethylformamide (0.5 mL)at room temperature was added phenylalanine tert butyl ester hydrochloride (0.11 mmol). A cocktail solution of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.021 g, 0.11 mmol), triethylamine (0.3 mmol) in DMF (0.5 mL) was added and the reaction was agitated at room temperature for 18 hours. 1 ml water was added to the reaction mixture resulting in the formation of a tan precipitate. the mixture was filtered and allowed to dry. The solid mass was transferred into vial and dissolved in 1 ml of 90% trifluoroacetic acid. The solutions were agitated for 6 hrs then concentrated under reduced pressure. The residures were taked up in DMSO and subjected to Gilson HPLC purification. The title compound was abtained as solid.(0.016 g, 28%). MS(ES) m/z 584 [M+H].

reactant | 2-(4′-tert-butylbiphenyl-3-yl)-9-hydroxy-3H-naphtho[1,2-d]imidazole-7-carboxylic acid | 0.1 mmol, 0.047 g | C(C)(C)(C)C1=CC=C(C=C1)C1=CC(=CC=C1)C=1NC2=C(N1)C1=C(C=C(C=C1C=C2)C(=O)O)O | C28H24N2O3
reactant | phenylalanine tert butyl ester hydrochloride | 0.11 mmol | Cl.C(C)(C)(C)OC([C@@H](N)CC1=CC=CC=C1)=O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.11 mmol, 0.021 g | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 0.3 mmol | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | water | 1 ml | O | H2O
product | (S)-2-({1-[2-(4′-tert-butylbiphenyl-3-yl)-9-hydroxy-3H-naphtho[1,2-d]imidazol-7-yl]-methanoyl}-amino)-3-phenylpropionic acid | C(C)(C)(C)C1=CC=C(C=C1)C1=CC(=CC=C1)C=1NC2=C(N1)C1=C(C=C(C=C1C=C2)C(=O)N[C@H](C(=O)O)CC2=CC=CC=C2)O | C37H33N3O4
